US05756518
Synthesis of 3-cyano-6-[3-(2-quinolinylmethoxy)-benzyloxy]-1,2-dihydroquinolin-2-one
3-(2-quinolinylmethoxy)benzyl chloride (3.49 g, 12.3 mmol) was added to a solution of 2.45 g (12.3 mmol) of 3-cyano-6-hydroxy-1,2-dihydroquinolin-2-one in 100 ml of DMF, followed by the further addition of 2.04 g (14.8 mmol) of K2CO3 and 396 mg (1.23 mmol) of tetra-n-butylammonium bromide. The resulting mixture was stirred under an argon gas stream at room temperature for 24 hours. The reaction mixture was concentrated under reduced pressure, followed by the addition of CHCl3 --MeOH and water to extract the reaction product into the organic layer. The organic layer was dried over Na2SO4 and then concentrated under reduced pressure. The residue was subjected to chromatography on a silica gel column. Subsequent to elution with CHCl3, recrystallization was conducted from a CHCl3 --MeOH mixed solvent, whereby 250 mg of the title compound were obtained as yellow powder (yield: 4.7%).

reactant | 3-(2-quinolinylmethoxy)benzyl chloride | 12.3 mmol, 3.49 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C(CCl)C=CC1 | C17H14ClNO
reactant | 3-cyano-6-hydroxy-1,2-dihydroquinolin-2-one | 12.3 mmol, 2.45 g | C(#N)C=1C(NC2=CC=C(C=C2C1)O)=O | C10H6N2O2
reactant | K2CO3 | 14.8 mmol, 2.04 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeOH | CO | CH4O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
catalyst | tetra-n-butylammonium bromide | 1.23 mmol, 396 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-cyano-6-[3-(2-quinolinylmethoxy)-benzyloxy]-1,2-dihydroquinolin-2-one | 250 mg | C(#N)C=1C(NC2=CC=C(C=C2C1)OCC1=CC(=CC=C1)OCC1=NC2=CC=CC=C2C=C1)=O | C27H19N3O3
